Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
CC: Transfer from OSH for Afib with RVR  
 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ yo M with metastatic papillary renal cell carcinoma, known 
mets to lungs, brain, back, heart came into the ED today with 
___ d h/o weakness, dizziness, fatigue. He has h/o RV mass and 
"abnormal EKG" in the past. He had ___ syncopal episodes in that 
time and fell on back yest with residual L lower back pain. Seen 
at ___ yest with EKG showing A-fib, rapid 
ventricular response, RBBB, T wave abnormality. Received 150 mg 
Amiodarone, 1 mg Dilaudid (back pain) and was transferred at his 
request to ___.  
.  
Regarding his cancer history, developed left lower back pain 
towards the end of ___. Workup included a CT scan of his 
abdomen dated ___, which showed a 10.1 x 8.2 cm lobulated 
enhancing soft tissue mass causing distortion of the underlying 
renal architecture of the left kidney. He was concurrently 
diagnosed with a pulmonary embolism and eventually underwent a 
left radical nephrectomy with inferior venacavotomy and complete 
excision of the renal vein with inferior vena caval 
reconstruction and removal of tumor thrombus. This was performed 
on ___. The pathology from the nephrectomy showed renal 
cell carcinoma of papillary subtype, which was 11.5 cm in 
greatest dimension. He was followed clinically following this 
period but developed metastatic disease in the lumbar spine, 
which was symptomatic as well as enlarging pulmonary nodules. He 
underwent radiation to the lumbar spine, which resulted in 
significant amelioration of symptoms. He has receveid 4 cycles 
of temsirolimus with compllication of pneumonitis. On ___, Mr, ___ was admitted to ___ with right hand numbness 
which perisisted. HIS head CT revealed a left parietal 
hemorrhage with some mild mass effect. He was given a Keppra 
load of 1000 mg a day and was taken off subsequently. His head 
MRI revealed at least one metastatic focus that was hemorrhagic 
in the left posterior frontal lobe, precentral in location. He 
was seen by Dr. ___ at that time for consultation. He was 
taken off of the Lovenox and was discharged to home with follow 
up with neurology. MRI imaging on ___, according to Dr. 
___, revealed, "a good resolution of the blood in 
the left posterior frontal metastasis; however, now, the right 
temporal FLAIR signal abnormality appears to have bled and is 
now approximately about 1.5 cm with some mild surrounding 
edema". On that day in ___ clinic, his Sutent dose was decreased 
to 37.5mg daily secondary to symptoms.  
.  
Of note, he has a history of PE that was diagnosed incidentally 
along with RCC (___), with no sx at that time. He was started 
on coumadin which was continued until ___ then changed to 
Lovenox but D/C'd in ___ when brain mets were discovered 
and now has continued to be off anticoagulation completely.  
.  
In the ED tonight T98 HR 100 RR 18 BP 101/66 Sat 98% 2L. EKG 
showed NSR at 93 bpm, 1 AVB, RBBB, no acute ischemic changes. He 
was tired with a nonfocal exam. CXR: mass-like airspace dz in R 
lung base (old). He had a D-dimer sent which was >5000. He 
subsequently underwent a V/Q scan yielding a large area of 
mismatched hypoperfusion in the right upper lobe with a 
moderately high risk ratio for pulmonary embolism. Given 
inability to anticoagulate him, ___ was called and plan on 
placing an IVC filter in the am. In the meantime, they 
recommended Mucomyst and Bicarb O/N pre-procedure as he has a 
chronic renal insufficiency.  
.  
ROS: He reports fatigue requiring him to sleep approximately 
___ hours a day. He has occasional shortness of breath and 
dyspnea on exhertion. His oxygen saturation with ambulation was 
documented by Dr. ___ 99%-100%. He reports cough in 
the mornings but not everyday. He denies any epistaxis. His 
nausea is poorly controlled with ondansetron. 

 
Past Medical History:
# Papillary renal cell carcinoma- presented in ___ with L flank 
pain, s/p L radical nephrectomy with IVC/thrombus/renal vein 
resection, IVC reconstruction, (___), s/ XRT to L1-L2 region 
for spine metastases. Known RV tumor thrombus since ___. 
Currently undergoing treatment with temsirolimus at 37.5 mg 
intravenously once weekly.  
# Pulmonary embolism- diagnosed incidentally along with RCC 
(___), no sx at that time; started on coumadin which was 
continued until ___ then changed to Lovenox  
# Hypertension- on beta blocker  
# Hypercholesterolemia- on statin  
# Chronic renal insuffiency- initial creat 1.2-1.5, up to ___ 
s/p surgery and complicated by ATN, most recently 2.1-2.3.  
# Type 2 diabetes- on insulin  
# Peripheral vascular disease  
# Depression- on mirtazipine and buproprion  
# Chronic normocytic anemia  
# h/o colonic polyps  
# h/o pancreatitis  
# s/p CCY  

 
Social History:
___
Family History:
The patient's mother died at the age of ___ from complications 
relating to lung cancer. Father died at the age of ___ from 
myocardial infarction. He had a sister with type 2 diabetes who 
died from complications. Family history is negative for any 
genitourinary malignancy.

 
Physical Exam:
Physical exam:  
VS 98.4 142/74 9 16 O2Sat 96% RA  
Gen: NAD, AAOx3  
HEENT: PERRLA, dry mm  
NECK: no LAD, no JVD, no carotid bruit  
COR: S1S2, regular rhythm, no m/r/g, normal PMI, no hives  
PULM: CTA b/l, no wheezing or rhonchi  
ABD: Normoactive bowel sounds, soft, nd, nt, well healed scar 
under diaphragms  
Skin: warm extremities, no rash, no swelling  
EXT: 1+ DP, no edema/c/c, negative ___ sign  
MS: Mild CVA tenderness mid back and limited movement to ___ 
pain  
NEURO: A and O x 3 and CN II-XII intact. No decreased sensation 
of extremities. ___ strength x 4 ext.
 
Pertinent Results:
Admit labs:

___ 05:30PM   WBC-12.9*# RBC-4.17* HGB-12.6* HCT-36.4* 
MCV-87 MCH-30.2 MCHC-34.6 RDW-19.3*
___ 05:30PM   NEUTS-89.7* LYMPHS-7.7* MONOS-2.3 EOS-0.2 
BASOS-0.2
___ 05:24PM   GLUCOSE-148* UREA N-41* CREAT-2.3* SODIUM-136 
POTASSIUM-4.6 CHLORIDE-107 TOTAL CO2-16* ANION GAP-18
___ 05:24PM   CK(CPK)-67
___ 05:24PM   cTropnT-0.10*
___ 05:24PM   ___ PTT-25.1 ___
___ 05:24PM   D-DIMER-5943*
=========================================================
EKG: NSR at 93 bpm, 1 AVB, RBBB  
.  
___ CXR: FINDINGS: Two views are compared with very recent study 
dated ___. There is a patchy airspace process at the right 
lung base, likely in the middle lobe, not much changed. There 
are also number of small nodular opacities elsewhere, likely 
corresponding to known pulmonary metastases. However, no new 
focal airspace process is identified to suggest acute 
consolidation. The cardiomediastinal silhouette and pulmonary 
vessels are unchanged, with no pleural effusion or other 
evidence of CHF.  
.  
___ Lung Scan 1. Large area of mismatched hypoperfusion in the 
right upper lobe with a moderately high risk ratio for pulmonary 
embolism.  
.  
MR ___ IMPRESSION: Slight decrease in size of previously seen 
metastatic focus in the left frontal lobe. New hemorrhagic 
lesion, presumably a metastasis in the right frontal lobe, with 
the multiple hyperintense lesions in the frontal and parietal 
lobes now more likely representing tumor. Left-sided arachnoid 
cyst is unchanged. Per ___ medical record, Dr. ___ has 
already reviewed the imaging with the patient. 
Discharge labs:

___ 06:50AM BLOOD WBC-4.3 RBC-3.25* Hgb-10.0* Hct-30.2* 
MCV-93 MCH-30.9 MCHC-33.3 RDW-19.9* Plt ___
___ 05:30PM BLOOD Neuts-89.7* Lymphs-7.7* Monos-2.3 Eos-0.2 
Baso-0.2
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-113* UreaN-19 Creat-1.8* Na-135 
K-4.5 Cl-106 HCO3-19* AnGap-15
___ 06:52AM BLOOD ALT-8 AST-18 LD(LDH)-794* CK(CPK)-58 
AlkPhos-181* Amylase-51 TotBili-0.4
___ 06:52AM BLOOD CK-MB-NotDone cTropnT-0.09*
___ 12:40AM BLOOD cTropnT-0.09*
 
Brief Hospital Course:
FICU Course:(As dicatated by ICU team)

___ yo M with metastatic papillary renal cell carcinoma, known 
mets to lungs, brain, back with Afib w/ RVR from OSh found now 
to have lg PE on VQ scan and planned for IVC filter per IP in 
am.

Patient was admitted to the ICU after episode of stable VTach.  
He was evaluated by EP, who recommended 48 hours of IV 
amiodarone.  He was then started on an amiodarone taper as 
follows:
amiodarone 400mg PO TID x 1 week (___)
then amiodarone 200mg TID x 3 weeks (___)
Then amiodarone 400mg daily thereafter (reevaluate afterone 
month)

He had no further episodes of VTach.  Per EP, he should not be 
shocked for stable VTach because of risk of embolizing his 
cardiac met.
.  
# PE: Per above, hx of PE incidentally found in ___. He was 
started on coumadin which was continued until ___ then 
changed to Lovenox but D/C'd in ___ when brain mets were 
discovered and now has continued to be off anticoagulation 
completely. Now with new PE per V/Q scan. Not a candidate for 
anticoagulation given hemorrhagic mets to brain seen on recent 
MR  
.  
# Metastatic papillary renal cell carcinoma: See interval 
history above. Per last ___ note, he will return to the ___ 
clinic in two weeks' time for follow up prior to beginging his 
new cycle of temsirolimus. He will also undergo CT scan of torso 
post his next cycle in 6 weeks time.  
.  
# Hypertension- continued beta blocker  
.  
# Back pain- With hx of known mets to L1 and L2 and now s/p 
fall.   
.  
# Hypercholesterolemia- continued statin  
.  
# CRF: Creatinine has been ranging between 2.2 and 3.0 over the 
last month in the context of receiving temsirolimus. Appears 
slightly dry on exam, no oliguria  
Hydrated, creatinine 1.8 on discahrge.
.  
# Type 2 Diabetes mellitus: Continued 70/30 and NPH  
Severely reduced dose on discharge given poor PO and overall 
grave prognosis
.  
# Depression: Ongoing.  
- continued Mirtazapine and Venlafaxine  

.  
# Comm: ___ RN note from ___ states: "Also 
discussed ___ nurse with both wife and son: wife said 
husband would not allow it (? seeing if they could say they were 
the ___ rather than Hospice to the pt); son much more receptive 
to looking into this option." This needs to be further discussed 
during this admission. Spoke with wife this pm who would 
appreciate a palliative care consult and discussion of hospice 
options, maybe for future initiation. Pt amenable to hospice 
discussions but not ready to "throw in the towel".  
- Palliative care consulted throughout.  
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
He was called out to hospialist service evening of ___.  I 
assumed care on ___.  Plan in place from ICU to discharge 
patient home.  Family and patient aware that given VT, multiple 
co morbidities including metastatic cancer to heart and brain, 
multiple VTE with CI to anti coagulation, very high risk to have 
life threatening event at home.  I made no significant changes 
to his medication regimen.
 
Medications on Admission:
Mirtazapine 15 mg PO HS  
Simvastatin 40 mg PO DAILY  
Venlafaxine XR 75 mg PO DAILY  
HISS  
Insulin 70/30 20U in am, NPH 22U in pm, additional SSC  
Metoprolol 25mg BID  
Keppra 500mg 2x/day  
Zofran 8mg rapid dissolve 2x/day  
Sutent 37.5mg daily (per recent onc notes, differs in OMR)
 
Discharge Medications:
1. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
3. Levetiracetam 250 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
4. Insulin NPH Human Recomb 100 unit/mL Cartridge Sig: Ten (10) 
units Subcutaneous at bedtime.  
5. Insulin NPH Human Recomb 100 unit/mL Cartridge Sig: Ten (10) 
units Subcutaneous qAM.
Disp:*1000 units* Refills:*0*
6. Amiodarone 200 mg Tablet Sig: Two (2) Tablet PO TID (3 times 
a day) for 2 days.
Disp:*12 Tablet(s)* Refills:*0*
7. Amiodarone 400 mg Tablet Sig: One (1) Tablet PO twice a day 
for 7 days: start after 2 days of TID dosing.
Disp:*14 Tablet(s)* Refills:*0*
8. Amiodarone 400 mg Tablet Sig: One (1) Tablet PO once a day: 
start in 10 days after finishing TID and BID dosing.
Disp:*30 Tablet(s)* Refills:*2*
9. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
10. Insulin Regular Human 100 unit/mL Cartridge Sig: as directed 
units Injection as directed: please see attached sliding scale.  

11. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: Two (2) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Metastatic Renal Cell Cancer metastatic to lung, brain, back, 
heart
2. Pulmonary Emboli
3. Atrial Fibrillation
4. Ventricular Tachycardia
5. Hypertension
6. Hyperlipidemia
7. Type II DM
8. Depression

 
Discharge Condition:
Afebrile, taking PO, ambulating

 
Discharge Instructions:
Follow up as below.

all medications as prescribed.  There have been changes.

As we discussed, if you develop chest pain, shortness of breath, 
change in mental status, fevers, chills or any other new 
concerning symptoms, call ___.

As we discussed, you are at very high risk of recurrent life 
threatening arrythmia known as ventricular tachycardia or atrial 
fibrillation.  The amiodorone is to help decrease the risk of 
you going into these abnormal rhythms. 
 
Followup Instructions:
___